US04960432
Preparation of 2,4-dimethoxy-3,5-diaminochlorobenzene hydrochloride
100 g of powdered iron which had been reduced with hydrogen were added to 270 ml of water containing 27 ml of acetic acid which had been previously heated to 80° C., and then 0.25 mole (66 g) of 2,4-dimethoxy-3,5-dinitrochlorobenzene was added gradually, with stirring. Upon completion of the additions, the reaction mixture was maintained in a boiling water bath for 30 additional minutes. After cooling, the reaction mixture was centrifuged. The iron slurries which contained the expected product were taken up with acetone under vigorous mixing. Upon filtration of the iron slurries followed by washing with acetone, the expected product precipitated from the acetone filtrate upon addition of a hydrochloric acid solution in ethanol. After thorough draining and washing, the expected product was recrystallized while hot from a hydrochloric acid and water mixture.

reactant | hydrogen | [H][H] | H2
reactant | water | 270 ml | O | H2O
reactant | 2,4-dimethoxy-3,5-dinitrochlorobenzene | 0.25 mole, 66 g | COC1=C(C=C(C(=C1[N+](=O)[O-])OC)[N+](=O)[O-])Cl | C8H7ClN2O6
catalyst | iron | 100 g | [Fe] | Fe
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,4-dimethoxy-3,5-diaminochlorobenzene hydrochloride | Cl.COC1=C(C=C(C(=C1N)OC)N)Cl | InChI=1S/C8H11ClN2O2.ClH/c1-12-7-4(9)3-5(10)8(13-2)6(7)11;/h3H,10-11H2,1-2H3;1H
